* C:\Users\circuit\spice\saradc\mySARLogic.asc
XX1 DDDD CLK QQQQ qbqb 0 clr 1.8 0
XX10 DDDD CLK QQQQ qbqb 0 clr 1.8 0
XX30 Sample D6 N001 SW5 SW5B
V1 DDDD 0 {Vhigh}
XX36 CLK N026
XX2 QQQQ CLK N019 COMP_EN 0 N025 1.8 0
XX3 N019 CLK N020 N013 0 clr 1.8 0
XX4 N020 CLK N021 N014 0 clr 1.8 0
XX5 N021 CLK N022 N015 0 clr 1.8 0
XX6 N022 CLK N023 N016 0 clr 1.8 0
XX7 N023 CLK N024 N017 0 clr 1.8 0
XX8 N024 CLK N025 N018 0 clr 1.8 0
XX9 N025 N026 clr 0 0 0 1.8 0
XX18 COMP_IN N007 N001 0 0 Sample 1.8 0
XX19 COMP_IN N008 N002 0 0 Sample 1.8 0
XX20 COMP_IN N009 N003 0 0 Sample 1.8 0
XX21 COMP_IN N010 N004 0 0 Sample 1.8 0
XX22 COMP_IN N011 N005 0 0 Sample 1.8 0
XX23 COMP_IN N012 N006 0 0 Sample 1.8 0
XX24 N001 clr Q05 0 0 0 1.8 0
XX25 N002 clr Q04 0 0 0 1.8 0
XX26 N003 clr Q03 0 0 0 1.8 0
XX27 N004 clr Q02 0 0 0 1.8 0
XX28 N005 clr Q01 0 0 0 1.8 0
XX29 N006 clr Q00 0 0 0 1.8 0
XX11 N006 clr Q00 0 0 0 1.8 0
XX12 N006 clr Q00 0 0 0 1.8 0
XX13 N006 clr Q00 0 0 0 1.8 0
XX14 N006 clr Q00 0 0 0 1.8 0
XX15 N006 clr Q00 0 0 0 1.8 0
XX16 N006 clr Q00 0 0 0 1.8 0
XX17 N006 clr Q00 0 0 0 1.8 0
XX31 Sample D5 N002 SW4 SW4B
XX32 Sample D4 N003 SW3 SW3B
XX33 Sample D3 N004 SW2 SW2B
XX34 Sample D2 N005 SW1 SW1B
XX35 Sample D1 N006 SW0 SW0B
.backanno
.end

