* C:\Users\circuit\spice\saradc\mySARLogic.asc
.include verilog/and.va
.include verilog/or.va
.include verilog/inv.va
.include verilog/dflipflop.va

.subckt mysarlogic CLK COMP_IN CLR COMP_EN Q00 Q01 Q02 Q03 Q04 Q05 Sample SW0 SW0B SW1 SW1B SW2 SW2B SW3 SW3B SW4 SW4B SW5 SW5B

XX1 DDDD CLK QQQQ qbqb 0 clr 1.8 0 VerilogA_DFlipFlop
XX10 DDDD CLK QQQQ qbqb 0 clr 1.8 0 VerilogA_AND
XX30 Sample D6 N001 SW5 SW5B VerilogA_OR
V1 DDDD 0 {Vhigh}
XX36 CLK N026 VerilogA_inv
XX2 QQQQ CLK N019 COMP_EN 0 N025 1.8 0 VerilogA_DFlipFlop
XX3 N019 CLK N020 N013 0 clr 1.8 0 VerilogA_DFlipFlop
XX4 N020 CLK N021 N014 0 clr 1.8 0 VerilogA_DFlipFlop
XX5 N021 CLK N022 N015 0 clr 1.8 0 VerilogA_DFlipFlop
XX6 N022 CLK N023 N016 0 clr 1.8 0 VerilogA_DFlipFlop
XX7 N023 CLK N024 N017 0 clr 1.8 0 VerilogA_DFlipFlop
XX8 N024 CLK N025 N018 0 clr 1.8 0 VerilogA_DFlipFlop
XX9 N025 N026 clr 0 0 0 1.8 0 VerilogA_DFlipFlop
XX18 COMP_IN N007 N001 0 0 Sample 1.8 0 VerilogA_DFlipFlop
XX19 COMP_IN N008 N002 0 0 Sample 1.8 0 VerilogA_DFlipFlop
XX20 COMP_IN N009 N003 0 0 Sample 1.8 0 VerilogA_DFlipFlop
XX21 COMP_IN N010 N004 0 0 Sample 1.8 0 VerilogA_DFlipFlop
XX22 COMP_IN N011 N005 0 0 Sample 1.8 0 VerilogA_DFlipFlop
XX23 COMP_IN N012 N006 0 0 Sample 1.8 0 VerilogA_DFlipFlop
XX24 N001 clr Q05 0 0 0 1.8 0 VerilogA_DFlipFlop
XX25 N002 clr Q04 0 0 0 1.8 0 VerilogA_DFlipFlop
XX26 N003 clr Q03 0 0 0 1.8 0 VerilogA_DFlipFlop
XX27 N004 clr Q02 0 0 0 1.8 0 VerilogA_DFlipFlop
XX28 N005 clr Q01 0 0 0 1.8 0 VerilogA_DFlipFlop
XX29 N006 clr Q00 0 0 0 1.8 0 VerilogA_DFlipFlop
XX11 N006 clr Q00 0 0 0 1.8 0 VerilogA_AND
XX12 N006 clr Q00 0 0 0 1.8 0 VerilogA_AND
XX13 N006 clr Q00 0 0 0 1.8 0 VerilogA_AND
XX14 N006 clr Q00 0 0 0 1.8 0 VerilogA_AND
XX15 N006 clr Q00 0 0 0 1.8 0 VerilogA_AND
XX16 N006 clr Q00 0 0 0 1.8 0 VerilogA_AND
XX17 N006 clr Q00 0 0 0 1.8 0 VerilogA_AND
XX31 Sample D5 N002 SW4 SW4B VerilogA_OR
XX32 Sample D4 N003 SW3 SW3B VerilogA_OR
XX33 Sample D3 N004 SW2 SW2B VerilogA_OR
XX34 Sample D2 N005 SW1 SW1B VerilogA_OR
XX35 Sample D1 N006 SW0 SW0B VerilogA_OR

.ends mysarlogic

